US03959322
Add 8N chromic acid dropwise with stirring to a solution of 13β-n-propyl-gon-4-en-17β-ol in acetone (100 cc.) until the solution becomes permanently orange. Add isopropanol (10 cc.) and potassium carbonate (5 g.), filter and evaporate the filtrate to dryness. Filter the residue in benzene-ether (1:1) through neutral alumina (20 g.), evaporate and recrystallize the product from methanol to obtain 13β-n-propyl-gon-4-en-17-one. Recrystallize from ether-hexane to obtain the pure product, m.p. 89°-90° C.

reactant | chromic acid | 8N | [Cr](=O)(=O)(O)O
reactant | 13β-n-propyl-gon-4-en-17β-ol | C(CC)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCCC=C1CC2)O | C20H32O
solvent | acetone | 100 cc | CC(=O)C | C3H6O
product | 13β-n-propyl-gon-4-en-17-one | C(CC)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCCC=C1CC2)=O | C20H30O
